US07125869B2
3.3 g (83 mmol) of 60% sodium hydride in oil are added portionwise to a solution of 14 g (69 mmol) of methyl 6-hydroxynaphthalene-2-carboxylate in 180 ml of an equivolume mixture of tetrahydrofuran and dimethylformamide. After the evolution of gas has ceased, 8.7 ml (76 mmol) of methoxyethoxymethyl chloride are added dropwise. The reaction medium is stirred at room temperature for 3 hours, immersed into ice-cold water and extracted with ethyl ether. The organic phase is dried over sodium sulfate, filtered and concentrated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with an 80/20 heptane/ethyl acetate mixture. 17 g of methyl 6-(2-methoxyethoxymethoxy)naphthalene-2-carboxylate are obtained in the form of a colorless oil, in a yield of 85%.

reactant | sodium hydride | 83 mmol, 3.3 g | [H-].[Na+]
reactant | methyl 6-hydroxynaphthalene-2-carboxylate | 69 mmol, 14 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C12H10O3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methoxyethoxymethyl chloride | 76 mmol, 8.7 ml | COCCOCCl | C4H9ClO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 6-(2-methoxyethoxymethoxy)naphthalene-2-carboxylate | 17 g, yield of 85% | COCCOCOC=1C=C2C=CC(=CC2=CC1)C(=O)OC | C16H18O5
